US05536725
This compound was prepared in a manner analogous to that of Example 1, using 4.2 grams (0.05 mole) of cyanoguanidine and 13.1 grams (0.08 mole) of 4-phenylcyclohexanone. The crude product was recrystallized from ethanol, yielding 2,4-diamino-6-phenyl-5,6,7,8-tetrahydroquinazoline, mp 223°-226° C. The NMR spectrum was consistent with the proposed structure.

reactant | cyanoguanidine | 0.05 mole, 4.2 grams | C(#N)NC(=N)N | C2H4N4
reactant | 4-phenylcyclohexanone | 0.08 mole, 13.1 grams | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
product | 2,4-diamino-6-phenyl-5,6,7,8-tetrahydroquinazoline | NC1=NC=2CCC(CC2C(=N1)N)C1=CC=CC=C1 | C14H16N4
